US07919628B2
To a solution of 84 mg 1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethoxy)-naphthalene-2-carboxylic acid in 1 ml abs. DMF under inert atmosphere 42 mg 1-hydroxybenzo-triazole and 60 mg 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 0.65 μl of N,N-diisopropylethylamine were added at 0° C. After 30 minutes at 0° C. 42 mg of 1-amino-cyclopentanecarboxylic acid methyl ester hydrochloride, followed by 0.65 μl of N,N-diisopropylethylamine were added. After 48 h at room temperature the reaction mixture was concentrated, the residue was taken up in ethyl acetate and washed with 2 M HCl, aqueous sodium carbonate solution (10%) and brine. The organic layer was dried over magnesium sulphate, and concentrated to yield 96 mg of 1-{[1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethoxy)-naphthalene-2-carbonyl]-amino}-cyclopentanecarboxylic acid methyl ester.

reactant | 1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethoxy)-naphthalene-2-carboxylic acid | 84 mg | O1C(COC2=C1C=CC=C2)COC2=C(C=CC1=CC=CC=C21)C(=O)O | C20H16O5
reactant | 1-hydroxybenzo-triazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 60 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-diisopropylethylamine | 0.65 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-amino-cyclopentanecarboxylic acid methyl ester hydrochloride | 42 mg | Cl.COC(=O)C1(CCCC1)N
reactant | N,N-diisopropylethylamine | 0.65 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-{[1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethoxy)-naphthalene-2-carbonyl]-amino}-cyclopentanecarboxylic acid methyl ester | 96 mg | COC(=O)C1(CCCC1)NC(=O)C1=C(C2=CC=CC=C2C=C1)OCC1COC2=C(O1)C=CC=C2 | C27H27NO6
